Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
metformin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Patient is a ___ year old female with PSH of lap RnYGB in ___ 
at ___, afib on coumadin, DM here with epigastric abdominal 
pain, and two episodes of NBNB vomiting of ingested material 
since 3pm yesterday. the patient states the pain was crampy and 
nonradiating, last BM this afternoon. she had a sick contact
(grandkid with cold-like symptoms). 

In the ED her labs are notable for bicarb of 21 and a WBC of 10, 
and on CT there is mild SB dilatation to 2.5cm with collapsed 
loops distally c/f SBO. 
At the time of our evaluation she denies pain, nausea, vomiting,
SOB, CP. 

 
Past Medical History:
Past Medical History:
AFib, obesity, DM

Past Surgical History:
RnYGB ___
Cataracts
Hip replacement
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Admission Physical Exam:

Vitals: 98 66 162/65 19 96% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS:
GEN:
HEENT:
CV:
PULM:
ABD:
EXT:
 
Pertinent Results:
IMAGING:

___: CT Abdomen/Pelvis:
1. Small-bowel obstruction, either partial or early high-grade, 
with 
transition point in the lower abdomen just to the right of 
midline.  No 
ischemic sequelae or evidence of perforation. 
2. Status post Roux-en-Y gastric bypass.  No anastomotic 
complications. 
3. Deformity of the superior endplate of the L3 vertebra is 
likely chronic and may represent a degenerative Schmorl's node. 

LABS:

___ 11:08AM   GLUCOSE-92 UREA N-10 CREAT-0.6 SODIUM-139 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-28 ANION GAP-9*
___ 11:08AM   CALCIUM-8.9 PHOSPHATE-3.4 MAGNESIUM-1.8
___ 11:08AM   WBC-5.6 RBC-3.80* HGB-11.3 HCT-34.7 MCV-91 
MCH-29.7 MCHC-32.6 RDW-13.7 RDWSD-46.1
___ 11:08AM   PLT COUNT-169
___ 11:08AM   ___ PTT-25.6 ___
___ 10:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-TR* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 10:55PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:55PM URINE  MUCOUS-RARE*
___ 08:14PM   LACTATE-2.3*
___ 08:00PM   GLUCOSE-198* UREA N-15 CREAT-0.7 SODIUM-136 
POTASSIUM-4.9 CHLORIDE-99 TOTAL CO2-21* ANION GAP-16
___ 08:00PM   ALT(SGPT)-26 AST(SGOT)-29 ALK PHOS-163* TOT 
BILI-0.4
___ 08:00PM   LIPASE-23
___ 08:00PM   cTropnT-<0.01
___ 08:00PM   ALBUMIN-5.0
___ 08:00PM   WBC-10.6* RBC-4.97 HGB-14.6 HCT-45.0 MCV-91 
MCH-29.4 MCHC-32.4 RDW-13.8 RDWSD-45.7
___ 08:00PM   NEUTS-85.4* LYMPHS-10.9* MONOS-3.1* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-9.02* AbsLymp-1.15* AbsMono-0.33 
AbsEos-0.00* AbsBaso-0.02
___ 08:00PM   ___ PTT-35.5 ___
___ 08:00PM   PLT COUNT-200
 
Brief Hospital Course:
Patient is a ___ year old female with PSH of lap RnYGB in ___ at 
___, afib on coumadin, DM, who presented to ___ with abdominal 
pain, and two episodes of NBNB vomiting.  In the ED, her labs 
were notable for bicarb of 21 and a WBC of 10,
and on CT there was mild small bowel dilatation to 2.5cm with 
collapsed
loops distally, concerning for SBO.  The patient was admitted to 
the Acute Care Surgery service for serial abdominal exams and 
monitoring.  She was initially kept NPO with IVF for hydration.  
Later on HD1, diet was advanced to clear liquids which she 
tolerated. 

On HD2, the patient passed flatus and was advanced to a regular 
diet which was well-tolerated.  Her pulse was noted to be in the 
upper ___ overnight. The patient was asymptomatic. Of note is 
that she received 25 mg of atenolol in ___ AM and her home dose 
is 12.5mg.  EKG was obtained which showed sinus bradycardia.  
Given her bradycardia and hx of remote afib, Cardiology was 
consulted and recommended d/cing atenolol, continuing 
amlodipine, warfarin, prn furosemide. 

On HD2, the patient reported left knee pain from a prior MVC 
from the previous week.  A left knee x-ray was ordered which 
showed...

At the time of discharge 0n ___, the patient was doing well, 
afebrile with stable vital signs. The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 7.5 mg PO DAILY16 
2. Atenolol 12.5 mg PO DAILY 
3. glimepiride 1 mg oral DAILY 
4. amLODIPine 5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with a small bowel 
obstruction.  You were initially restricted from eating and 
received intravenous fluid for hydration.  Your bowel 
obstruction resolved on its own without surgery.  You had return 
of bowel function and your diet was advanced.  You are now 
tolerating a regular diet and are ready to be discharged home.  
Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___